US05220042
15.0 Milligrams of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl tert-butyldimethylsilyl ether was dissolved in 2 ml of anhydrous tetrahydrofuran, under argon gas stream conditions, 0.1 ml of tetrahydrofuran solution of 1 mole of tetra-n-butylammonium fluoride was added thereto and stirred for 30 minutes, the reaction of removal of the protecting group was completed quantitatively. The solvent was removed by evaporation under reduced pressure, and the residue obtained was treated on a silica gel thin layer chromatography and purified by developing with 30% ethyl acetate-n-hexane to yield 9.0 mg of 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene.

reactant | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl tert-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C20H36O7Si
reactant | tetra-n-butylammonium fluoride | 1 mole | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene | 9.0 mg | OCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C14H22O7
